US04523042
2,5,9-Trimethyl-11-(2,6,6-trimethyl-1-cyclohexen-1-yl)-2,4,6,8,10-undecapentaene-1-ol
A solution of 2,5,9-trimethyl-11-(2,6,6-trimethyl-1-cyclohexen-1-yl)-2,4,6,8,10-undecapentaenoic acid ethyl ester (1.85 g, 5 mmol) in 25 ml of anhydrous THF is cooled to -10° C. and 0.19 g (5 mmol) of LAH is added in portions. The resulting mixture is stirred for 4 hours and quenched carefully with 0.4 ml of water. The mixture is suction-filtered and the residue thoroughly washed with ether. The combined filtrate and washings are dried (MgSO4) and evaporated under reduced pressure to give the crude product. Purification by HPLC (4% ethylacetate in hexane on silica gel column) gives the pure desired product.

reactant | 2,5,9-trimethyl-11-(2,6,6-trimethyl-1-cyclohexen-1-yl)-2,4,6,8,10-undecapentaenoic acid ethyl ester | 5 mmol, 1.85 g | C(C)OC(C(=CC=C(C=CC=C(C=CC1=C(CCCC1(C)C)C)C)C)C)=O | C25H36O2
reactant | LAH | 5 mmol, 0.19 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 2,5,9-Trimethyl-11-(2,6,6-trimethyl-1-cyclohexen-1-yl)-2,4,6,8,10-undecapentaene-1-ol | CC(CO)=CC=C(C=CC=C(C=CC1=C(CCCC1(C)C)C)C)C | C23H34O
